US04180670
N-[3,4-dimethoxy-α-(2-thiazolyl)benzyl]-4-pyridinamine
The title compound is prepared in a similar manner to Examples 5, 6 and 7 by reacting 2-thiazolyl lithium (obtained from 2-bromothiazole and butyl lithium) with 4-(3,4-dimethoxybenzylideneamino)pyridine.

reactant | 2-thiazolyl lithium | S1C(=NC=C1)[Li]
reactant | 4-(3,4-dimethoxybenzylideneamino)pyridine | COC=1C=C(C=NC2=CC=NC=C2)C=CC1OC | C14H14N2O2
product | N-[3,4-dimethoxy-α-(2-thiazolyl)benzyl]-4-pyridinamine | COC=1C=C(C(C=2SC=CN2)NC2=CC=NC=C2)C=CC1OC | C17H17N3O2S
